US04578381
4 Grams of 2-amino-3-(2-quinolon-4-yl)propionic acid hydrochloride was suspended in 50 ml of methanol. Under an ice-cooled condition with strring, 5.3 g of thionyl chloride was added dropwise thereto, the reaction mixture was stirred at a room temperature overnight. Methanol and thionyl chloride were removed by distillation under a reduced pressure, then the residue obtained was recrystallized from methanolacetone to obtain 2.4 g of methyl 2-amino-3-(2-quinolon-4-yl)propionate in the form of white powdery product.

reactant | 2-amino-3-(2-quinolon-4-yl)propionic acid hydrochloride | Cl.NC(C(=O)O)CC1=CC(NC2=CC=CC=C12)=O
reactant | thionyl chloride | 5.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | methyl 2-amino-3-(2-quinolon-4-yl)propionate | 2.4 g | NC(C(=O)OC)CC1=CC(NC2=CC=CC=C12)=O | C13H14N2O3
